US07576215B2
[4-{3-[(2,6-DIMETHYLBENZYL)OXY]PHENYL}-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)METHANONE
The title compound was prepared from [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone and 2-Bromomethyl-1,3-dimethylbenzene following the procedure of Example 478: MS (ES) m/z 511.5.

reactant | [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone | OC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H14F3NO2
reactant | 2-Bromomethyl-1,3-dimethylbenzene | BrCC1=C(C=CC=C1C)C | C9H11Br
product | [4-{3-[(2,6-DIMETHYLBENZYL)OXY]PHENYL}-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)METHANONE | CC1=C(COC=2C=C(C=CC2)C2=C(C=NC3=C(C=CC=C23)C(F)(F)F)C(=O)C2=CC=CC=C2)C(=CC=C1)C | C32H24F3NO2
